US06569863B1
(c). 4-Cyanomethyl-5-methyl-2-phenylimidazole
A solution of 4-chloromethyl-5-methyl-2-phenylimidazole.HCl (40.5 g) in dimethylsulfoxide (400 ml) was added to a stirred solution of sodium cyanide (80 g) in dimethylsulfoxide (600 ml) over a period of 30 min. After 20 h the solids were filtered off, washed with water and dried in vacuo.

reactant | 4-chloromethyl-5-methyl-2-phenylimidazole | ClCC=1N=C(NC1C)C1=CC=CC=C1 | C11H11ClN2
reactant | HCl | 40.5 g | Cl | ClH
reactant | sodium cyanide | 80 g | [C-]#N.[Na+]
solvent | dimethylsulfoxide | 400 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 600 ml | CS(=O)C | C2H6OS
product | 4-Cyanomethyl-5-methyl-2-phenylimidazole | C(#N)CC=1N=C(NC1C)C1=CC=CC=C1 | C12H11N3
